US04492795
140 g (4.2 mol) of sodium phenolate in 500 ml of N-methylpyrrolidone were heated to 200° C. 116 g (0.6 mol) of 1-(2,2-dichlorovinyl)-1-ethyl-cyclopentane were added dropwise so slowly that the reaction temperature did not fall below 195° C. The mixture was then stirred for a further hour at 210° C. After the mixture had cooled, it was diluted with methylene chloride and extracted several times by shaking with 2 N sodium hydroxide solution. The organic phase, which had been dried over sodium sulphate, was concentrated in vacuo, and the residue was fractionated. 132 g (88% of theory) of 1-chloro-2-(1-ethylcyclopentyl)-2-phenoxyethylene of boiling point 115° to 125° C./0.1 mm Hg were obtained.

reactant | sodium phenolate | 4.2 mol, 140 g | C1(=CC=CC=C1)[O-].[Na+]
reactant | 1-(2,2-dichlorovinyl)-1-ethyl-cyclopentane | 0.6 mol, 116 g | ClC(=CC1(CCCC1)CC)Cl | C9H14Cl2
solvent | N-methylpyrrolidone | 500 ml | CN1C(CCC1)=O | C5H9NO
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 1-chloro-2-(1-ethylcyclopentyl)-2-phenoxyethylene | 132 g, 88% | ClC=C(OC1=CC=CC=C1)C1(CCCC1)CC | C15H19ClO
